US03954752
3,5-Bis-trimethylsilyloxy-1,2,4-triazine is prepared from 6-azauracil, i.e., 1,2,4-triazine-3,5(2H,4H)-dione, either by raction with trimethylchlorosilane and triethylamine in refluxing benzene or by reacting also under reflux of hexamethyldisilazane. The former procedure has been found to provide 3,5-bis-trimethylsilyloxy-1,2,4-triazine of an inferior quality and in a low yield while a highly pure product is obtained in an almost quantitative yield by the latter procedure; the disadvantage of this latter procedure, however, consists in the high price of hexamethyldisilazane.

reactant | 6-azauracil | N1C(=O)NC(=O)C=N1 | C3H3N3O2
reactant | 1,2,4-triazine-3,5(2H,4H)-dione | N=1NC(NC(C1)=O)=O | C3H3N3O2
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,5-bis-trimethylsilyloxy-1,2,4-triazine | C[Si](OC=1N=NC=C(N1)O[Si](C)(C)C)(C)C | C9H19N3O2Si2
